US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-[1-(1,3-dithian-2-yl)]pentylamide
In 20 ml of anhydrous methylene chloride was dissolved 1.0 g of N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 4-(b), and 300 mg of 1,3-propanedithiol and 0.8 ml of boron trifluoride ethyl etherate were added thereto. The mixture was allowed to react at room temperature for 12 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel to obtain 900 mg of the titled compound as a colorless crystal.

reactant | N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide | 1.0 g | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H30N2O4
reactant | 1,3-propanedithiol | 300 mg | C(CCS)S | C3H8S2
reactant | boron trifluoride ethyl etherate | 0.8 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-Benzyloxycarbonyl-L-leucine-[1-(1,3-dithian-2-yl)]pentylamide | 900 mg | S1C(SCCC1)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C23H36N2O3S2
